US06602884B2
A solution of 1.26 g of (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylic acid in 50-cm3 of methanol was cooled to a temperature in the region of −25° C. with stirring and under an inert atmosphere. 1.6-cm3 of thionyl chloride were added to this solution over 25 minutes. The mixture was brought to a temperature in the region of 20° C., while the stirring was continued for a further 48 hours. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C., taken up in 100-cm3 of toluene and the mixture was again concentrated under reduced pressure (5 kPa). The residue was taken up in 50-cm3 of diisopropyl ether, triturated and concentrated to dryness under reduced pressure (5 kPa). 1.17 g of methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate dihydrochloride were obtained in the form of a yellow powder.

reactant | (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylic acid | 1.26 g | OC(CCC1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | C24H31FN2O6
reactant | thionyl chloride | 1.6-cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50-cm3 | CO | CH4O
product | methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate dihydrochloride | 1.17 g | Cl.Cl.OC(CCC1C(CNCC1)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | InChI=1S/C20H25FN2O4.2ClH/c1-26-13-4-5-17-14(9-13)19(16(21)11-23-17)18(24)6-3-12-7-8-22-10-15(12)20(25)27-2;;/h4-5,9,11-12,15,18,22,24H,3,6-8,10H2,1-2H3;2*1H
